US08802690B2
A suspension of (2-nitrophenyl)-acetonitrile (30 g, 185 mmol) and 10% palladium on carbon (2 g) in acetic acid (450 mL) was hydrogenated in a Parr apparatus under 30 psi pressure at ambient temperature for 2 hours. The mixture was filtered through a Celite® pad and the filtrate was concentrated in vacuo. The obtained residue was dissolved in ethyl acetate (250 mL). The resulting solution was washed with water (2×100 mL) and saturated sodium chloride (50 mL), and then dried over anhydrous sodium sulfate and concentrated in vacuo to yield product. The crude material was purified by column chromatography (100-200 mesh silica gel) using 8% ethyl acetate in petroleum ether as eluent to afford (2-aminophenyl)acetonitrile (13.5 g, 55%) as a solid. 1HNMR (CDCl3) δ ppm 7.3-7.1 (m, 2H), 6.9-6.7 (m, 2H), 3.7 (br, 2H), 3.5 (s, 2H).

reactant | (2-nitrophenyl)-acetonitrile | 185 mmol, 30 g | [N+](=O)([O-])C1=C(C=CC=C1)CC#N | C8H6N2O2
catalyst | palladium on carbon | 2 g | [Pd] | Pd
solvent | acetic acid | 450 mL | C(C)(=O)O | C2H4O2
product | (2-aminophenyl)acetonitrile | 13.5 g, 55% | NC1=C(C=CC=C1)CC#N | C8H8N2
